US07087754B2
6-Hydroxy-1-(2-phenylethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol
A mixture of 5-amino-1-(2-phenylethyl)-1H-pyrazole-4-carboxylic acid (1.87 g, 8.1 mmol) and urea (1.46 g, 24 mmol) was heated at 180° C. for 5 h, cooled and the resulting solid suspended in boiling water, filtered and washed with water to give the impure title compound (2.18 g, 105%,) as a cream solid.

reactant | 5-amino-1-(2-phenylethyl)-1H-pyrazole-4-carboxylic acid | 8.1 mmol, 1.87 g | NC1=C(C=NN1CCC1=CC=CC=C1)C(=O)O | C12H13N3O2
reactant | urea | 24 mmol, 1.46 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 6-Hydroxy-1-(2-phenylethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol | 2.18 g, 105% | OC1=NC(=C2C(=N1)N(N=C2)CCC2=CC=CC=C2)O | C13H12N4O2
